US08168673B2
To a solution of cyclobutanol (1 g, 13.9 mmol) in pyridine (20 mL) was added p-toluenesulfonyl chloride (2.9 g, 15.3 mmol) and the solution stirred at room temperature for 4 hours. Aqueous HCl was then added, and the solution extracted with ethyl acetate (×3). The combined organic layers were washed successively with saturated aqueous copper(II) sulfate (×3) and brine, then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified using flash column chromatography on silica gel (gradient of 0% to 5% ethyl acetate in petrol) to give cyclobutyl 4-methylbenzenesulfonate (2.05 g, 9.07 mmol, 65%) as a colourless oil.

reactant | cyclobutanol | 13.9 mmol, 1 g | C1(CCC1)O | C4H8O
reactant | p-toluenesulfonyl chloride | 15.3 mmol, 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | cyclobutyl 4-methylbenzenesulfonate | 9.07 mmol, 2.05 g, 65% | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC1 | C11H14O3S
